### PR TITLE
[Merged by Bors] - feat(RingTheory/PowerSeries): add lemmas on formal power series

### PR DESCRIPTION
**Pull request by rmhi**
Add lemmas on truncation of pormal power series

---

Add several lemmas on truncation of power series in one variable to RingTheory/PowerSeries/Basic. These are needed in another PR that I'm working on.

Also, define `PowerSeries.trunc n : PowerSeries R \to R[X]` for a Semiring R, rather than a CommSemiring. (For this, it's only necessary to change "variable [CommSemiring R]" to "variable [Semiring R]" on line 1791.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 1]
```diff
@@ -1832,9 +1836,55 @@ theorem trunc_add (n) (φ ψ : PowerSeries R) : trunc n (φ + ψ) = trunc n φ +
...
+  intros
+  rw [coeff_trunc]
+  split_ifs with h
+  · rw [lt_succ, ←not_lt] at h
+    contradiction
+  · rfl
+
+@[simp] lemma trunc_zero' {f : R⟦X⟧} : trunc 0 f = 0 := rfl
+
+theorem eval₂_trunc_eq_sum_range {S : Type*} [Semiring S] {s : S} {G : R →+* S} {n} {f : R⟦X⟧} :
```
Comment (jcommelin) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:1860]: I think the final 4 arguments should be explicit
```suggestion
theorem eval₂_trunc_eq_sum_range {S : Type*} [Semiring S] (s : S) (G : R →+* S) (n) (f : R⟦X⟧) :
```

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 2]
```diff
@@ -1832,9 +1836,55 @@ theorem trunc_add (n) (φ ψ : PowerSeries R) : trunc n (φ + ψ) = trunc n φ +
...
+  | succ n =>
+    have := natDegree_trunc_lt f n
+    rw [eval₂_eq_sum_range' (hn := this)]
+    apply sum_congr rfl
+    intro _ h
+    rw [mem_range] at h
+    congr
+    rw [coeff_trunc, if_pos h]
+
+@[simp] theorem trunc_X {n} : trunc (n + 2) X = (Polynomial.X : R[X]) := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:1874]:
```suggestion
@[simp] theorem trunc_X (n) : trunc (n + 2) X = (Polynomial.X : R[X]) := by
```
It might be more useful in practice to prove this for `trunc n X` under the assumption `n >= 2`. Would you mind adding that variant?

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 3]
```diff
@@ -2679,4 +2739,84 @@ theorem algebraMap_apply'' :
...
+  rw [coeff_trunc, coeff_trunc, coeff_coe]
+  split_ifs with h
+  · rw [coeff_trunc, if_pos <| lt_of_lt_of_le h hnm]
+  · rfl
+
+@[simp] theorem trunc_trunc {n} (f : R⟦X⟧) : trunc n ↑(trunc n f) = trunc n f :=
+  trunc_trunc_of_le f
+
+@[simp] theorem trunc_trunc_mul {n} (f g : R ⟦X⟧) :
+    trunc n ( (trunc n f) * g : R⟦X⟧ ) = trunc n ( f * g ) := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:2766]:
```suggestion
    trunc n ((trunc n f) * g : R⟦X⟧) = trunc n (f * g) := by
```

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 4]
```diff
@@ -2679,4 +2739,84 @@ theorem algebraMap_apply'' :
...
+  rw [coeff_trunc, coeff_trunc]
+  split_ifs with h
+  · rw [coeff_mul, coeff_mul, sum_congr rfl]
+    intro _ hab
+    have ha := lt_of_le_of_lt (antidiagonal.fst_le hab) h
+    rw [coeff_coe, coeff_trunc, if_pos ha]
+  · rfl
+
+@[simp] theorem trunc_mul_trunc {n} (f g : R ⟦X⟧) :
+    trunc n ( f * (trunc n g) : R⟦X⟧ ) = trunc n ( f * g ) := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:2777]:
```suggestion
    trunc n (f * (trunc n g) : R⟦X⟧) = trunc n (f * g) := by
```

**Review by jcommelin — COMMENTED** [review]
Thanks a lot for this PR!

I see that the file `Basic.lean` is getting quite long. We should probably split it into 3 or 4 pieces. But that can be done after this PR.

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 3 above)
Comment (rmhi) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:2766]: Thank you.

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 4 above)
Comment (rmhi) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:2777]: Thank you again. It seem I do this a lot.

**Comment by rmhi** [comment]
Many thanks for the useful comments, and for being so fast!

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 5]
```diff
@@ -1832,9 +1836,63 @@ theorem trunc_add (n) (φ ψ : PowerSeries R) : trunc n (φ + ψ) = trunc n φ +
     · rw [zero_add]
 #align power_series.trunc_add PowerSeries.trunc_add
 
+/--
+`R⟦X⟧` is notation for `PowerSeries R`,
+the semiring of formal power series in one variable over a semiring `R`.
+-/
+scoped notation:9000 R "⟦X⟧" => PowerSeries R
```
Comment (alexjbest) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:1843]: I would put this somewhere nearer the top of the file, and the the definition (and then maybe also use it throughout the file / library!)

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 6]
```diff
@@ -1832,9 +1836,63 @@ theorem trunc_add (n) (φ ψ : PowerSeries R) : trunc n (φ + ψ) = trunc n φ +
...
+
+theorem trunc_succ (f : R⟦X⟧) (n : ℕ) :
+    trunc n.succ f = trunc n f + Polynomial.monomial n (coeff R n f) := by
+  rw [trunc, Ico_zero_eq_range, sum_range_succ, trunc, Ico_zero_eq_range]
+
+theorem natDegree_trunc_lt (f : R⟦X⟧) (n) : (trunc (n + 1) f).natDegree < n + 1 := by
```
Comment (alexjbest) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:1849]: Why is this lemma  in terms of n+1 rather than n?

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 5 above)
Comment (alexjbest) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:1843]: I'm not suggesting that you change the whole file in this PR, but I would at least move it closer to the definition here

Comment (rmhi) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:1843]: Thanks, I did wonder about that. I'll do what you suggest.

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 6 above)
Comment (rmhi) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:1849]: Thank you for the comment. I'm not sure if this is what you meant, but if I replace n+1 by n in both places, then I think the lemma would be false. trunc 0 f = 0, which has natDegree 0.

Would it be better to make n implicit?

Comment (alexjbest) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:1849]: Oh right I'm being silly indeed (or just thinking about degree instead of natDegree)

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 5 above)
Comment (alexjbest) [reply Mathlib/RingTheory/PowerSeries/Basic.lean]: Looks great! And the diff isn't too big even, thanks for that

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 6 above)
Comment (alexjbest) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:1850]: can you add the `degree` version as well actually. I think we should try to keep approximate feature parity between the two

Comment (rmhi) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:1850]: Done. Thanks for the suggestion.

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 7]
```diff
@@ -2652,31 +2728,113 @@ end Polynomial
...
+    rw [coeff_coe]; symm
+    exact coeff_eq_zero_of_natDegree_lt <| lt_of_lt_of_le hn h
+
+/-- The function `coeff n : R⟦X⟧ → R` is continuous. I.e. `coeff n f` depends only on a sufficiently
+long truncation of the power series `f`.-/
+theorem coeff_coe_trunc_of_lt {n m} {f : R⟦X⟧} (h : n < m) :
+    coeff R n (trunc m f) = coeff R n f := by
+  rwa [coeff_coe, coeff_trunc, if_pos]
+
+/-- The `n`-th coefficient of a`f*g` may be calculated
```
Comment (alexjbest) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:2827]:
```suggestion
/-- The `n`-th coefficient of `f*g` may be calculated
```

**Comment by alexjbest** [comment]
Looks good to me
maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
